US07846956B2
14.22 g of ethyl 5-(hydroxymethyl)-isoxazole-3-carboxylate was dissolved in 80 ml of N,N-dimethylformamide, and 6.13 g of imidazole and 13.57 g of t-butyldimethylsilyl chloride were then added. The mixture was stirred at room temperature for 10 hours. After water was added, the reaction mixture was extracted with methyl-t-butyl ether. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure to obtain 23.82 g of ethyl 5-(t-butyldimethylsilanyloxymethyl)-isoxazole-3-carboxylate.

reactant | ethyl 5-(hydroxymethyl)-isoxazole-3-carboxylate | 14.22 g | OCC1=CC(=NO1)C(=O)OCC | C7H9NO4
reactant | imidazole | 6.13 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 13.57 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | ethyl 5-(t-butyldimethylsilanyloxymethyl)-isoxazole-3-carboxylate | 23.82 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NO1)C(=O)OCC | C13H23NO4Si
